US04529732
N-Methyl-cis-2-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-4-piperidinol
Using the procedure of Example 4, 1.13 g (2.68 mmole) of N-methyl-cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol and 452 mg of 5% palladium on carbon (50% wet) affords 0.752 g (84%) of the title compound as an oil.

reactant | N-methyl-cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol | 2.68 mmole, 1.13 g | CN1[C@H](C[C@H](CC1)O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C28H41NO2
catalyst | palladium on carbon | 452 mg | [Pd] | Pd
product | N-Methyl-cis-2-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-4-piperidinol | 0.752 g, 84% | CN1[C@H](C[C@H](CC1)O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)O | C21H35NO2
